US05891909
c) 3-[3-(2-Chloro-5-trifluoromethylphenylsulfonyloxy)-5-methyl-phenoxy]propionaldehyde
Sulfur trioxide pyridine complex (720 mg, 4.5 mmol) was added to a solution of 3-[3-(2-chloro-5-trifluoromethylphenylsulfonyloxy)-5-methylphenoxy]propanol (600 mg, 1.4 mmol), as prepared in the preceding step, N,N-diisopropylethylamine (0.6 mL, 4.7 mmol) and anhydrous dimethyl sulfoxide (0.3 mL, 4.2 mmol) in anhydrous dichloromethane (20 mL). The reaction mixture was stirred at ambient temperature for 1 hour and then quenched with 10% aqueous citric acid (50 mL). The mixture was extracted into dichloromethane (3×50 mL), and the dichloromethane solution was washed with 10% aqueous citric acid (40 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (dichloromethane) to give the title compound as a colorless oil (410 mg, 69%). 1H-NMR (300 MHz, CDCl3) δ 9.83 (s, 1H), 8.24 (d, J=2.1 Hz, 1H), 7.84 (dd, J=8.4, 2.1 Hz, 1H), 7.78 (d, J=8.4 Hz, 1H), 6.64 (s, 1H), 6.57 (s, 1H), 6.51 (s, 1H), 4.21 (t, J=6.0 Hz, 2H), 2.88 (t, J=6.0 Hz, 2H), 2.27 (s, 3H).

reactant | 3-[3-(2-chloro-5-trifluoromethylphenylsulfonyloxy)-5-methylphenoxy]propanol | 1.4 mmol, 600 mg | ClC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C | C17H16ClF3O5S
reactant | N,N-diisopropylethylamine | 4.7 mmol, 0.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 4.2 mmol, 0.3 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-[3-(2-Chloro-5-trifluoromethylphenylsulfonyloxy)-5-methyl-phenoxy]propionaldehyde | 410 mg, 69% | ClC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)OC=1C=C(OCCC=O)C=C(C1)C | C17H14ClF3O5S
